US04292431
A mixture of 1,5-dimethylimidazole-4-carboxylic acid (1.4 g, 0.01 mol), potassium hydroxide (1.12 g, 0.02 mol) and ~37% aqueous formaldehyde solution (3 ml) was heated at 80°-90° C. for 3 hours. After completion of the reaction, the solvent was stripped off in vacuo, and the residue was extracted with isopropanol (40 ml). The isopropanol extract was concentrated to give a crude product. The crude solid was recrystallized from acetone and filtered to afford 0.88 g of 1,5-dimethyl-4-hydroxymethylimidazole as a white crystal, m.p. 161°-163° C. Yield 70%.

reactant | 1,5-dimethylimidazole-4-carboxylic acid | 0.01 mol, 1.4 g | CN1C=NC(=C1C)C(=O)O | C6H8N2O2
reactant | potassium hydroxide | 0.02 mol, 1.12 g | [OH-].[K+]
reactant | formaldehyde | 3 ml | C=O | CH2O
product | 1,5-dimethyl-4-hydroxymethylimidazole | 0.88 g, Yield 70% | CN1C=NC(=C1C)CO | C6H10N2O
